US06313344B1
c) 1-[4-(1-{4-Chlorophenyl}-ethoxy)-phenyl]-1,2-propanedione-[ethyloxime]-2-oxime
A mixture of 29.0 g of 1-(4-(1-{4-chlorophenyl}-ethoxy)-phenyl)-1,2-propanedione-2-oxime and 9.4 g of O-ethylhydroxylamine hydrochloride in 150 ml of pyridine is boiled at reflux for 1 hour. After cooling, the reaction mixture is concentrated by evaporation in vacuo. The residue is dissolved in ethyl acetate; the organic phase is washed twice with water and once with saturated sodium chloride solution, dried with sodium sulfate and concentrated by evaporation. The crude product is stirred together with hexane; filtration is carried out and the filter residue is dried, yielding the title product having a melting point of 132-134° C.

reactant | 1-(4-(1-{4-chlorophenyl}-ethoxy)-phenyl)-1,2-propanedione-2-oxime | 29.0 g | ClC1=CC=C(C=C1)C(C)OC1=CC=C(C=C1)C(C(C)=NO)=O | C17H16ClNO3
reactant | O-ethylhydroxylamine hydrochloride | 9.4 g | Cl.C(C)ON
solvent | pyridine | 150 ml | N1=CC=CC=C1 | C5H5N
product | 1-[4-(1-{4-Chlorophenyl}-ethoxy)-phenyl]-1,2-propanedione-[ethyloxime]-2-oxime | C(C)ON=C(C(C)=NO)C1=CC=C(C=C1)OC(C)C1=CC=C(C=C1)Cl | C19H21ClN2O3
